US07091214B2
Triethyl orthoformate (148 g, 1.00 mol), Meldrum's acid (137 g, 0.95 mol), and biphenyl-3-ylamine (155 g, 0.916 mol) were combined and treated according to the general procedure described in Part A of Example 1 to obtain 283 g of 5-(biphenyl-3-ylaminomethylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione as a yellow solid.

reactant | Triethyl orthoformate | 1.00 mol, 148 g | C(OCC)(OCC)OCC | C7H16O3
reactant | Meldrum's acid | 0.95 mol, 137 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | biphenyl-3-ylamine | 0.916 mol, 155 g | C1(=CC(=CC=C1)N)C1=CC=CC=C1 | C12H11N
product | 5-(biphenyl-3-ylaminomethylene)-2,2-dimethyl-[1,3]dioxane-4,6-dione | 283 g | C1(=CC(=CC=C1)NC=C1C(OC(OC1=O)(C)C)=O)C1=CC=CC=C1 | C19H17NO4
